US06096930
i) 7-Chloro-2-ethyl-2,4,5-trimethylindan-1,3-dione
To a mixture of 28 ml of 4-chloro-o-xylene and 37.6 g of ethylmethylmalonyl chloride in 300 ml of dry dichloromethane was added slowly 26.7 g of AlCl3 under the current of nitrogen gas at -10° C. The reaction mixture was stirred at room temperature for 2 hours, quenched with 200 g of ice, and separated the organic layer. The aqueous layer was extracted with dichloromethane. The combined organic layer was dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by silica-gel column chromatography to afford 24.67 g of the title compound as a yellow solid.

reactant | 4-chloro-o-xylene | 28 ml | ClC=1C=C(C(=CC1)C)C | C8H9Cl
reactant | ethylmethylmalonyl chloride | 37.6 g | C(C)C(C(=O)Cl)(C(=O)Cl)C | C6H8Cl2O2
reactant | AlCl3 | 26.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 7-Chloro-2-ethyl-2,4,5-trimethylindan-1,3-dione | 24.67 g, Yield: 50% | ClC=1C=C(C(=C2C(C(C(C12)=O)(C)CC)=O)C)C | C14H15ClO2
